US06846819B1
b) Ethyl (E)-3-(6-amino-4-methylpyridin-3-yl)acrylate
To a stirred solution of 2-amino5-bromo-4-methylpyridine (10 g, 54 mmole) in propionitrile (50 mL) was added ethyl acrylate (17 mL, 157 mmole), DIEA (19 mL, 106 mmole), palladium(II) acetate (0.61 g, 2.7 mmole) and tri-o-tolylphosphine (1.64 g, 5.4 mmole). The reaction was purged with argon and heated at reflux for 6 hr. then was cooled to RT and concentrated to dryness under vacuum. The resulting residue was taken up in ethyl acetate and filtered through a pad of silica gel. The filtrate was concentrated and the remaining residue was triturated with 1:1 Et2O/petroleum ether (50 mL), filtered, and dried under vacuum to give the title compound (6.50 g, 59%) as a pale yellow solid: 1H NMR (400 MHz, DMSO-d6) δ 8.31 (s,1H), 7.66 (d, J=16.0 Hz,1H), 6.40 (br s, 2H), 6.32 (d, J=16.0 Hz,1H), 6.28 (s,1H), 4.15 (q, 2H), 2.24 (s, 3H), 1.24 (t, 3H).

reactant | 2-amino5-bromo-4-methylpyridine | 54 mmole, 10 g | NC1=NC=C(C(=C1)C)Br | C6H7BrN2
reactant | ethyl acrylate | 157 mmole, 17 mL | C(C=C)(=O)OCC | C5H8O2
reactant | DIEA | 106 mmole, 19 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tri-o-tolylphosphine | 5.4 mmole, 1.64 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | propionitrile | 50 mL | C(CC)#N | C3H5N
catalyst | palladium(II) acetate | 2.7 mmole, 0.61 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl (E)-3-(6-amino-4-methylpyridin-3-yl)acrylate | 6.50 g, 59% | NC1=CC(=C(C=N1)/C=C/C(=O)OCC)C | C11H14N2O2
